US09210927B2
Preparation of (E)-2-((3-Chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichloro-phenyl)but-1-en-1-yl)pyridin-2-yl)methyl)isoindoline-1,3-dione (CI64)
To a stirred solution of 2-((3-chloro-5-vinylpyridin-2-yl)methyl)isoindoline-1,3-dione (0.35 g, 1.17 mmol) in 1,2-dichlorobenzene (10 mL) were added 5-(1-bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene (0.8 g, 2.3 mmol), CuCl (23 mg, 0.12 mmol), 2,2-bipyridyl (0.073 g, 0.234 mmol), and the reaction mixture was heated at 180° C. for 16 h. The reaction mixture was concentrated under reduced pressure and purified by column chromatography (20-30% EtOAc in hexane) to afford the title compound as a liquid (0.4 g, 50%): mp 79-82° C.; 1H NMR (400 MHz, CDCl3) δ 8.27 (s, 1H), 7.91 (m, 2H), 7.77 (m, 3H), 7.36 (s, 2H), 6.51 (d, J=15.6 Hz, 1H), 6.32 (dd, J=15.6, 8.0 Hz, 1H), 5.30 (s, 2H), 4.13 (m, 1H); ESIMS m/z 559 ([M+H]+).

reactant | 2-((3-chloro-5-vinylpyridin-2-yl)methyl)isoindoline-1,3-dione | 1.17 mmol, 0.35 g | ClC=1C(=NC=C(C1)C=C)CN1C(C2=CC=CC=C2C1=O)=O | C16H11ClN2O2
reactant | 5-(1-bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene | 2.3 mmol, 0.8 g | BrC(C(F)(F)F)C=1C=C(C(=C(C1)Cl)Cl)Cl | C8H3BrCl3F3
reactant | 2,2-bipyridyl | 0.234 mmol, 0.073 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 10 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 0.12 mmol, 23 mg | Cl[Cu]
product | (E)-2-((3-Chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichloro-phenyl)but-1-en-1-yl)pyridin-2-yl)methyl)isoindoline-1,3-dione | 0.4 g, 50% | ClC=1C(=NC=C(C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)CN1C(C2=CC=CC=C2C1=O)=O | C24H13Cl4F3N2O2
